### PR TITLE
Strict set CwF and TypeCat structures

### PR DESCRIPTION
**Pull request by andreaslyn**
Cherry pick commits on Strict Set from the UniMath workshop.

### CODE REVIEW

**Comment by andreaslyn** [comment]
This PR supersedes https://github.com/unimath2019-tt/TypeTheory/pull/1.

File: TypeTheory/Instances/StrictSet.v [hunk 1]
```diff
@@ -0,0 +1,228 @@
...
+  exists (λ Γ A, Γ ⋆ A).
+  intros Γ A Δ σ. exact (A⦃σ⦄).
+- exists (λ Γ A, VSET_ctx_proj).
+  exists (λ Γ A Δ σ, VSET_q_gen_mor A σ).
+  exists (λ Γ A Δ σ, VSET_q_gen_mor_p A σ).
+  intros Γ A Δ σ.
+  apply is_symmetric_isPullback.
+  + intros a b. apply isaset_set_fun_space.
+  + exact (VSET_isPullback_q_gen_mor A σ).
+Defined.
```
Comment (mortberg) [inline TypeTheory/Instances/StrictSet.v:116]: It should be possible to prove that this is a split type-category:

https://github.com/unimath2019-tt/TypeTheory/blob/dev/TypeTheory/ALV1/TypeCat.v#L178

That is what really is different between V and HSET.

File: TypeTheory/Instances/StrictSet.v [hunk 2]
```diff
@@ -0,0 +1,228 @@
...
+Definition VSET_CwF : cwf_struct (VSET V).
+Proof.
+exists VSET_tt_reindx_type_struct. use tpair.
+- exists VSET_reindx_laws. split.
+  + apply VSET_reindx_comp_laws_1_2.
+  + split; [apply VSET_reindx_comp_law_3 | apply VSET_reindx_comp_law_4].
+- split.
+  + intros Γ Δ. apply isaset_set_fun_space.
+  + split; intros; apply isaset_forall_hSet.
+Defined.
```
Comment (mortberg) [inline TypeTheory/Instances/StrictSet.v:203]: Very nice!

File: TypeTheory/Instances/StrictSet.v [hunk 3]
```diff
@@ -0,0 +1,228 @@
...
+  ∏ (a : A) (b : El a → A),
+    ∑ (p : A), El p  = (∏ (x : El a), El (b x))%set.
+
+Definition is_guniverse (A : pre_guniverse) : UU :=
+  guniverse_bool A ×
+  guniverse_empty A ×
+  guniverse_sigma A ×
+  guniverse_pi A.
+Definition guniverse : UU :=
+  ∑ (A : pre_guniverse), is_guniverse A.
```
Comment (mortberg) [inline TypeTheory/Instances/StrictSet.v]: Please change this definition to only say that it is a set universe closed under Pi and Sigma. It is not necessary that it has bool/empty.

**Review by mortberg — CHANGES_REQUESTED** [review]
This is very nice! The only changes left to do is some refactoring of the `guniverse` structure and that this is a split type-category. The latter should be essentially the same as proving that it is a CwF.

File: TypeTheory/Instances/StrictSet.v (hunk 1 above)
Comment (andreaslyn) [reply TypeTheory/Instances/StrictSet.v:116]: > This is very nice! The only changes left to do is some refactoring of the `guniverse` structure and that this is a split type-category. The latter should be essentially the same as proving that it is a CwF.

This is fixed in the new commit.

File: TypeTheory/Instances/StrictSet.v [hunk 4]
```diff
@@ -0,0 +1,239 @@
...
+                                (Γ'' : V) (g : El Γ'' → El Γ') :
+  VSET_q_gen_mor A (f⦃g⦄) = VSET_q_gen_mor A f⦃VSET_q_gen_mor (A⦃f⦄) g⦄.
+Proof.
+unfold VSET_q_gen_mor, VSET_subst_pair, VSET_ctx_proj, VSET_q_gen, VSET_p_gen.
+repeat (induction guniverse_pr_pi as [x p]; cbn in *; induction (!p); clear x p).
+repeat (induction guniverse_pr_sigma as [x p]; cbn in *; induction (!p); clear x p).
+reflexivity.
+Defined.
+
+Lemma VSET_is_split_typecat : is_split_typecat VSET_TypeCat.
```
Comment (mortberg) [inline TypeTheory/Instances/StrictSet.v:137]: Very nice!

File: TypeTheory/Instances/StrictSet.v (hunk 3 above)
Comment (mortberg) [reply TypeTheory/Instances/StrictSet.v]: Actually, how about not packaging this up at all? The proofs below would be a bit slicker if you don't have to unpack the `guniverse` structure all the time.

So it would be something like (I haven't typechecked this in Coq, so it is probably full of typos):
```
Definition V : UU := ∑ (A : hSet), A → hSet.
Definition pr1V : V -> hSet := @pr1 hSet _.
Coercion pr1V : V >-> hSet.
Definition El {A : V} : A → hSet := (pr2 A).

Definition V_sigma {A : pre_guniverse} : UU := ∏ (a : A) (b : El a → A), A.
Variable V_sigma_El (A : pre_guniverse) : 
  ∏ (a : A) (b : El a → A), El (V_sigma a b)  = (∑ (x : El a), El (b x))%set.

...
```

You could potentially even use lowercase \sigma and \pi for the ones in V.

Comment (andreaslyn) [reply TypeTheory/Instances/StrictSet.v]: I have unpacked the guniverse. What do you mean with "lowercase \sigma and \pi for the ones in V"?

Comment (mortberg) [reply TypeTheory/Instances/StrictSet.v]: I just meant to use the greek characters. Anyway it's not important

**Comment by mortberg** [comment]
This looks good to me now! Just add a header to the file saying what it contains and who wrote it. Then you can make a PR to TypeTheory.

**Comment by andreaslyn** [comment]
This has been merged into UniMath/TypeTheory.
